US08071586B2
G) (S)-1-((S)-3-Benzyloxy-1-methoxymethyl-propyl)-3-methyl-piperazin-2-one
Trifluoroacetic acid (8.03 g, 70.4 mmol) was added at 0° C. to a solution of {(S)-1-[((S)-3-benzyloxy-1-methoxymethyl-propyl)-(2,2-dimethoxy-ethyl)-carbamoyl]-ethyl}-carbamic acid tert-butyl ester (2.20 g, 4.69 mmol) in dichloromethane (40 mL). The reaction mixture was allowed to reach room temperature over 2 h, then triethylsilane (2.73 g, 70.4 mmol) was added. The reaction mixture was stirred for 16 h at room temperature, then cooled to 0° C. and treated with triethylamine (7.24 g, 70.4 mmol). After 10 min the ice bath was removed and the reaction mixture evaporated. The residue was taken up in ethyl acetate/water and neutralized with 2 M aq. sodium carbonate solution. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chomatography (SiO2; dichloromethane-methanol gradient) afforded the title compound (735 mg, 51%). Light yellow oil, MS (ISP)=307.3 (M+H)+.

reactant | Trifluoroacetic acid | 70.4 mmol, 8.03 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | {(S)-1-[((S)-3-benzyloxy-1-methoxymethyl-propyl)-(2,2-dimethoxy-ethyl)-carbamoyl]-ethyl}-carbamic acid tert-butyl ester | 4.69 mmol, 2.20 g | C(C)(C)(C)OC(N[C@@H](C)C(N(CC(OC)OC)[C@@H](CCOCC1=CC=CC=C1)COC)=O)=O | C24H40N2O7
reactant | triethylsilane | 70.4 mmol, 2.73 g | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylamine | 70.4 mmol, 7.24 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (S)-1-((S)-3-Benzyloxy-1-methoxymethyl-propyl)-3-methyl-piperazin-2-one | 735 mg, 51% | C(C1=CC=CC=C1)OCC[C@@H](COC)N1C([C@@H](NCC1)C)=O | C17H26N2O3
